US06313162B1
(a) 3,5-Di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzaldehyde
12.3 g (52 mmol) of 3,5-di-tert-butyl-4-hydroxybenzaldehyde and 100 ml of THF are introduced into a round-bottomed flask. 10 ml (58 mmol) of diisopropylethylamine and 10.3 ml (58 mmol) of 2-trimethylsilylethoxymethane chloride are added successively and the mixture is refluxed for three hours. The reaction medium is poured into water and extracted with ethyl ether, and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of ethyl acetate and hexane (3/97% by volume). After evaporation of the solvents, 15.6 g (82%) of the expected product are collected in the form of a colourless oil.

reactant | 3,5-di-tert-butyl-4-hydroxybenzaldehyde | 52 mmol, 12.3 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | diisopropylethylamine | 58 mmol, 10 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-trimethylsilylethoxymethane chloride | 58 mmol, 10.3 ml | [Cl-].C[Si](CCOC)(C)C
solvent | water | O | H2O
product | 3,5-Di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzaldehyde | C(C)(C)(C)C=1C=C(C=O)C=C(C1OCOCC[Si](C)(C)C)C(C)(C)C | C21H36O3Si
